US07632851B2
5-[3-(2-Fluoroethoxy)-phenyl]-Benzo[1,2,5]oxadiazole
600 mg (2.83 mmol) 3-benzo[1,2,5]oxadiazol-5-yl-phenol are dissolved in 15 mL DMF and stirred for 20 hours at room temperature in the presence of 1.15 g (1.25 eq.) cesium carbonate and 0.264 mL 1-bromo-2-fluoroethane. The reaction mixture is extracted with water and ethyl acetate, the combined organic phases are washed with water and brine, dried with magnesium sulfate and evaporated to dryness. The residue is column chromatographed (gradient from hexane to hexane/ethyl acetate 3:2) to yield the desired product as a pale yellow powder. MS(ES+): 259 (M+1).

reactant | 3-benzo[1,2,5]oxadiazol-5-yl-phenol | 2.83 mmol, 600 mg | N1=C2C(=NO1)C=C(C=C2)C=2C=C(C=CC2)O | C12H8N2O2
reactant | cesium carbonate | 1.15 g, 1.25 eq. | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1-bromo-2-fluoroethane | 0.264 mL | BrCCF | C2H4BrF
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 5-[3-(2-Fluoroethoxy)-phenyl]-Benzo[1,2,5]oxadiazole | FCCOC=1C=C(C=CC1)C=1C=CC=2C(=NON2)C1 | C14H11FN2O2
